simulator lang=spectre
global 0

ahdl_include "../submission/deadband_window.va"

Vin (sigin 0) vsource type=pwl wave=[0 -0.5 10n -0.5 10.1n 0 20n 0 20.1n 0.5 30n 0.5 30.1n 0.1 45n 0.1]
XDUT (sigin sigout) deadband_window dead_low=-0.2 dead_high=0.2

tran tran stop=40n maxstep=25p
save sigin sigout
